Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ by ___ is a  ___ year old man with PMH CVA, 
HTN, HLD, DM2 (diet controlled), remote CABG w/ subsequent 
occluded grafts s/p stents to OM and LAD (___) and dementia who 
presents with one week intermittent chest pain w/ rad to left 
arm. Per history taken in the ED his chest pain is worsened by 
walking, relieved by rest and nitroglycerin. History limited by 
patient dementia. Patient denies concomitant SOB, DOE, N/V, 
changes in bowel, bladder. 

Of note, patient reports tumultuous living condition due to 
conflict with his landlord. Intermittently endorsing wanting to 
harm someone, but no clear plan. Per review of Atrius records, 
this has been chronic and is being actively worked on by PCP who 
is involving social work and legal. Per last PCP ___:

"___ services has gone into his home which has 
revealed unusual behavior such as keeping refrigerator locked, 
claiming someone stealing his food, claiming strangers come in 
to use his telephone and he has no phone. Multiple unpaid bills. 
He is at risk of being evicted because of the disruption his 
paranoia thoughts are causing to the management of the complex. 
It appears he may not be safe to be living alone."
 
In the ED, initial vitals were:  97.8 77 149/84 18 99% RA 
 
Exam notable for
sating well on RA, RRR, CTABL, no ___ edema, AO to person, 
___" Year: ___ Month: ___ Date: ___, word 
finding difficulties, perseverates on conflict w/ landlord, 
fixed paranoia, NOT aggressive or violent, redirectable 

Labs showed leukopenia to 3.9, Hgb 12.9, plts 201. Chem 7 WNL. 
Trop negative x1 with another pending on transfer. 
Imaging showed CXR with Low lung volumes.  Subtle left base 
opacity could be due to atelectasis, although infection or 
aspiration are also in the differential. 

Received 324 of aspirin
 
Transfer VS were 97.9 75 135/85 19 99% RA  

___ cardiology was consulted and agreed with ED plan for 
nuclear stress test. 

Psych were consulted for fixed delusions and intent to harm 
landlord. They recommended:
 - Patient does not currently meet ___ criteria 
 - Please continue 1:1 sitter to monitor acute agitation and 
fall prevention
 - For acute agitation that does not respond to verbal 
redirection, can offer PRN Seroquel 25mg BID
 - Patient may benefit from outpatient formal neurocognitive 
testing for dementia evaluation
 
Decision was made to admit to medicine for further management 
and for nuclear stress testing.  

On arrival to the floor, patient denies having chest pain. Last 
chest pain was "3 weeks ago." Was also nauseous "3 weeks ago." 
He denies SOB. No palpitations. Tangential on history. Stating, 
"I don't want to hurt no one." 
 
Past Medical History:
Hypertension, essential 
Cerebrovasc disease 
Elevated PSA 
Blood in stool 
Hypercholesterolemia 
DM (diabetes mellitus), type 2 with ophthalmic complications 
Screening for colon cancer 
History of coronary artery bypass surgery 
Obesity 
MCI (mild cognitive impairment)
 
Social History:
___
Family History:
Mother died of a heart attack. Otherwise, does not know family 
history. 
 
Physical Exam:
Admission Physical Exam:
========================
Vital Signs: 97.9 155/81 70 18 95 RA
General: Alert, oriented to person, place and time. Not oriented 
to situation, no acute distress.   
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing or cyanosis. 1+ 
___ edema bilaterally 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred. No asterixis. Patient 
mirroring suggestive of frontal release. 
Psych: Tangential speech

Discharge Physical Exam:
========================
Vital Signs: 97.5 155/88 66 18 96% RA
General: Alert, oriented to person, place and time. Not oriented 
to situation, no acute distress.   
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended
GU: No foley  
Ext: Warm, well perfused, ___ b/l lower extremity edema
Neuro: CNII-XII grossly intact
Psych: Tangential speech
 
Pertinent Results:
Admission Labs:
===============
___ 07:51PM BLOOD WBC-3.9* RBC-4.38* Hgb-12.9* Hct-39.4* 
MCV-90 MCH-29.5 MCHC-32.7 RDW-15.6* RDWSD-51.0* Plt ___
___ 07:51PM BLOOD Neuts-47.5 ___ Monos-13.3* 
Eos-1.0 Baso-0.5 Im ___ AbsNeut-1.85 AbsLymp-1.46 
AbsMono-0.52 AbsEos-0.04 AbsBaso-0.02
___ 07:51PM BLOOD Glucose-106* UreaN-9 Creat-0.9 Na-142 
K-4.2 Cl-105 HCO3-26 AnGap-15
___ 07:51PM BLOOD cTropnT-<0.01
___ 02:10AM BLOOD cTropnT-<0.01

Pertinent Labs:
===============
___ 06:15AM BLOOD VitB12-___
___ 06:15AM BLOOD TSH-2.5

Imaging:
=======
___ CXR:
Low lung volumes.  Subtle left base opacity could be due to 
atelectasis, 
although infection or aspiration are also in the differential.  
Posterior to a lower thoracic vertebral body is a radiopaque 
structure 
measuring ~ 1.6 x 0.9 cm of unclear etiology but could represent 
shrapnel.

___ P-MIBI:
The image quality is adequate but limited due to soft tissue 
attenuation. 
Resting perfusion images reveal uniform tracer uptake throughout 
the myocardium.
 
Discharge Labs:
=============== 

___ 06:15AM BLOOD WBC-4.9 RBC-4.11* Hgb-11.9* Hct-36.8* 
MCV-90 MCH-29.0 MCHC-32.3 RDW-15.5 RDWSD-50.3* Plt ___
___ 06:15AM BLOOD Glucose-152* UreaN-9 Creat-0.9 Na-142 
K-3.9 Cl-106 HCO3-26 AnGap-___ year old man with ___ CVA, HTN, HLD, DM2 (diet controlled), 
remote CABG w/ subsequent occluded grafts s/p stents to OM and 
LAD (___) and cognitive impairment who presents with one week 
intermittent chest pain and chronic paranoid delusions. 

# CAD: 
# Chest pain: significant PMH for CAD s/p CABG and PCIs. Per 
history obtained by EMS and ED patient was having active chest 
pain which prompted his presentation, but he denied chest pain 
on arrival to the floor and could not recall any recent chest 
pain. Troponin was negative x 2. P-MIBI was attempted but after 
obtaining resting images patient refused further testing and 
attempted to leave. Continued home aspirin. metoprolol, 
atorvastatin, diltiazem 

# Paranoid delusions: ongoing issue that is referred to in 
recent Atrius notes. He was evaluated by psychiatry who did not 
feel that inpatient psychiatric hospitalization was indicated. 
They recommended Risperdal with close monitoring of QTc but 
patient refused. Spoke to patient's PCP ___. 
Currently he lives alone with meal and homemaking services per 
elder services and per Dr. ___ has been managing but has come 
close to eviction in the past. He and others within the ___ 
system have been working on arranging a more supervised living 
arrangement. He will follow up with Dr. ___ will 
continue to process of transitioning to more supervised living 
situation
 
#  HTN: continued home lisinopril, furosemide, metoprolol, and 
diltiazem

Transitional Issues:
====================
- needs follow up for housing issues
- TSH, RPR, B12 pending at discharge
- consider Risperdal 0.5mg BID per psychiatry recommendations, 
will need monitoring of QTc

>30 minutes spent coordinating discharge home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Potassium Chloride 20 mEq PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Metoprolol Succinate XL 200 mg PO DAILY 
4. Lisinopril 5 mg PO DAILY 
5. Diltiazem Extended-Release 180 mg PO DAILY 
6. Furosemide 40 mg PO DAILY 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
8. Multivitamins 1 TAB PO DAILY 
9. Aspirin EC 325 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin EC 325 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Diltiazem Extended-Release 180 mg PO DAILY  
4.  Furosemide 40 mg PO DAILY  
5.  Lisinopril 5 mg PO DAILY  
6.  Metoprolol Succinate XL 200 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
9.  Potassium Chloride 20 mEq PO DAILY 
Hold for K >  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Chest pain

Secondary:
Cognitive impairment
Psychosis
Coronary artery disease, chronic

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY YOU CAME TO THE HOSPITAL:
You came to the hospital because you were having chest pain

WHAT WE DID FOR YOU HERE:
You had blood tests that showed that you were not having a heart 
attack

WHAT YOU SHOULD DO AFTER LEAVING THE HOSPITAL:
1. Please follow up for Dr. ___ - see below for your 
appointment
 
Followup Instructions:
___